US07652049B2
A solution of (PhCH2OCO)2O (103 mg, 0.360 mmol) in dry CH2Cl2 (2 mL) was added by cannula to a stirred solution of 2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)-1-pyridin-2-ylethanol (160 mg, 0.360 mmol) in dry CH2Cl2 (10 mL) at room temperature under N2. The reaction was stirred for 2 h at room temperature and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-50% EtOAc in hexanes gradient) to afford benzyl(2-hydroxy-2-pyridin-2-ylethyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.63 (50% EtOAc/hexanes). LCMS calc.=579.25; found=579.2 (M+1)+.

reactant | (PhCH2OCO)2O | 0.360 mmol, 103 mg | O(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | 2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)-1-pyridin-2-ylethanol | 0.360 mmol, 160 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC(O)C1=NC=CC=C1)OC | C25H27F3N2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl(2-hydroxy-2-pyridin-2-ylethyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=NC=CC=C1)O)=O | C33H33F3N2O4
